### PR TITLE
feat(Data/Nat): add padicValNat_add_eq_min

### PR DESCRIPTION
**Pull request by openendings**
Add lemmas for `padicValNat` mirroring the [e]multiplicity API, including
- padicValNat_eq_of_dvd_of_not_dvd
- padicValNat_add_of_gt
- padicValNat_add_eq_min

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/MaxPowDiv.lean [hunk 1]
```diff
@@ -208,6 +208,43 @@ theorem _root_.padicValNat_base_mul {p n : ℕ} (hp : 1 < p) (hn : n ≠ 0) :
...
+      simp
+    apply (pow_dvd_iff_le_padicValNat hp hn).mpr
+    exact add_one_le_of_lt h
+
+/-- If `n ≠ 0`, `m ≠ 0`, and `padicValNat p m` and `padicValNat p n` are distinct, then
+`padicValNat p (n + m)` is the minimum of the two. -/
+theorem padicValNat_add_eq_min {p n m : ℕ} (hn : n ≠ 0) (hm : m ≠ 0)
+    (hpnm : padicValNat p n ≠ padicValNat p m) :
+    padicValNat p (n + m) = min (padicValNat p n) (padicValNat p m) := by
+  rcases (padicValNat p n).lt_trichotomy (padicValNat p m) with h | h | h
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/MaxPowDiv.lean]: You can use `hpnm.lt_or_gt` instead

File: Mathlib/Data/Nat/MaxPowDiv.lean [hunk 2]
```diff
@@ -208,6 +208,43 @@ theorem _root_.padicValNat_base_mul {p n : ℕ} (hp : 1 < p) (hn : n ≠ 0) :
     padicValNat p (p * n) = padicValNat p n + 1 := by
   simp [padicValNat, *]
 
+/-- If `p ^ k ∣ n`, and `¬p ^ (k + 1) ∣ n`, then `padicValNat p n = k`. -/
+theorem padicValNat_eq_of_dvd_of_not_dvd {p n k : ℕ} (hk : p ^ k ∣ n) (hsucc : ¬p ^ (k + 1) ∣ n) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/MaxPowDiv.lean]: These new theorems are in the `Nat` namespace; comparing to `padicValNat_base_mul` above, they probably shouldn't be.

File: Mathlib/Data/Nat/MaxPowDiv.lean [hunk 3]
```diff
@@ -208,6 +208,43 @@ theorem _root_.padicValNat_base_mul {p n : ℕ} (hp : 1 < p) (hn : n ≠ 0) :
...
+    padicValNat p n = k := by
+  have hp : p ≠ 1 := fun _ => by simp_all
+  have hn : n ≠ 0 := fun _ => by simp_all
+  exact Nat.eq_iff_le_and_ge.mpr
+    ⟨Nat.le_of_not_gt <| (pow_dvd_iff_le_padicValNat hp hn).not.mp hsucc,
+    (pow_dvd_iff_le_padicValNat hp hn).mp hk⟩
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/MaxPowDiv.lean]: You're applying `Nat.le_of_not_gt` to `¬k + 1 ≤ padicValNat p n` rather than `¬(_ < _)`. Consider this instead:
```suggestion
  exact Nat.eq_of_le_of_lt_succ
    ((pow_dvd_iff_le_padicValNat hp hn).mp hk)
    (Nat.lt_of_not_le ((pow_dvd_iff_le_padicValNat hp hn).not.mp hsucc))
```

**Review by Ruben-VandeVelde — COMMENTED** [review]
Thanks!

**Comment by openendings** [comment]
awaiting-author

File: Mathlib/Data/Nat/MaxPowDiv.lean (hunk 2 above)
Comment (openendings) [reply Mathlib/Data/Nat/MaxPowDiv.lean]: Oh, perhaps because `padicValNat` is already in the root namespace? I've updated them.

**Review by openendings — COMMENTED** [review]
-awaiting-author
Hopefully that covers it!
